US05464781
A mixture of 5-ethoxy-6-methyl-pyridin-2-amine (22.0 g) and ethyl acetoacetate (22.4 ml) was stirred at ambient temperature while polyphosphoric acid (47 ml) was added slowly. After the addition the mixture was warmed gradually on a steam bath, with caution, until an exotherm occurred with considerable frothing. After the reaction had subsided the mixture was heated for 75 minutes at 95° C., then cooled and added to ice/water. When all the polyphosphoric acid had dissolved the mixture was basified with 5M sodium hydroxide solution and the mixture extracted with dichloromethane to give 7-ethoxy-2,6-dimethylpyrido[1,2-a]pyrimidin-4-one m.p. 112°-114° C. The pyrimidine (12.3 g) was added to stirred paraffin oil (190 ml) at 340° C. over 10 minutes. The mixture was heated at 340° C. for a further 40 minutes then cooled to ambient temperature and diluted with petroleum ether, b.p. 60°-80° C. (180 ml). The mixture was filtered and the solid obtained was washed with ether. The solid was recrystallised from IMS to give 6-ethoxy-2,7-dimethyl-1,8-naphthyridin-4-ol, m.p. 281°-4° C.

reactant | 5-ethoxy-6-methyl-pyridin-2-amine | 22.0 g | C(C)OC=1C=CC(=NC1C)N | C8H12N2O
reactant | ethyl acetoacetate | 22.4 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium hydroxide | 5M | [OH-].[Na+]
product | 7-ethoxy-2,6-dimethylpyrido[1,2-a]pyrimidin-4-one | C(C)OC=1C=CC=2N(C(C=C(N2)C)=O)C1C | C12H14N2O2
